US04897483
A solution of ethyl 2-bromo-9-phthalimidononanoate [prepared according to Chem. Pharm. Bull. 34, 2078 (1986)] (3 g), L-alanyl-L-proline tertiary butylester (1 g) and triethylamine (0.8 ml) in acetonitrile (200 ml) is subjected to 60 hours' reflux. Acetonitrile is distilled off under reduced pressure, and the residue is dissolved in ethyl acetate. The solution is dehydrated with anhydrous sodium sulfate, and thereafter is concentrated to obtain an oily residue. When this substance is applied to a silica gel chromatography (ethyl acetate:n-hexane=3:1) for separative purification, 310 mg of N-[1(R)-ethoxycarbonyl-8-phthalimidooctyl]-L-alanyl-L-proline tertiary butylester is obtained as a colorless oil from the first effluence.

reactant | ethyl 2-bromo-9-phthalimidononanoate | 3 g | BrC(C(=O)OCC)CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H24BrNO4
reactant | L-alanyl-L-proline tertiary butylester | 1 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C12H22N2O3
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[1(R)-ethoxycarbonyl-8-phthalimidooctyl]-L-alanyl-L-proline tertiary butylester | 310 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@H](CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC)C)=O)=O | C31H45N3O7
